US07943651B2
3-(4-{[4-[5-Fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)-N-[2-(methylamino)-2-oxoethyl]benzamide
Prepared similarly to Example 1 from 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid and N1-methylglycinamide with System A used for purification by mass directed autopreparation.

reactant | 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1)(C(F)(F)F)O)(C)C)OC | C29H29F4N3O4
reactant | N1-methylglycinamide | CNC(CN)=O | C3H8N2O
product | 3-(4-{[4-[5-Fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)-N-[2-(methylamino)-2-oxoethyl]benzamide | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)NCC(=O)NC)C=CC1)(C(F)(F)F)O)(C)C)OC | C32H35F4N5O4
